data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,10196,"CC(OC(C)[O-:1])[C:2](C[N+](C)(C)C)([H:3])[CH:4]=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4035,"C[NH:1][CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8348,"CC1CC(C)[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,179,"O=[N+]([O-])C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,233,"CC1(C)CCC(=O)[CH:1]([H:2])[C:3]1=[OH+:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4288,"CCC(C)C1=C2CN3C(=O)C4=C(C=C3C2=NC2=C1C=C(CCCC(C)C)C=C2)C(O)(CC)[C:1](O)([OH:2])[OH+:3]C4.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3901,"O[P+:1](O)(O)[O:2][CH3:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8458,"CCO.CCOC(=O)C(=CC1=C(CCC2=CC(Br)=CC=C2)ON=C1C)C(C)=O.CCOC(=O)[CH:1]([H:2])[C:3](C)=[NH2+:4].O.[NH3:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2304,"C1=CC=C([N:1]=[N+:2]=[N-:3])C=C1.CN(C)P1OC2=C(C=CC=C2)O1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8140,"CCNC(Cl)(CCC(C)=O)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2681,"CCCC(C)OCC[S+:1]1C[CH2:2]1.CCCC(C)[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8515,"C1=C[CH:1]=[CH:2]O1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,9389,"C1=CC=C([N+:1]#[N:2])C=C1.C1=C[CH:3]=[CH:4]O1|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7832,"CO.ClC1=CC=C([C:1](CC2=C([NH2:2])CCCC2)=[O:3])C=C1.N.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3397,"C1=CC=[N+:1]([H:2])C=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(=O)CCC(C(C)C=O)C1(C)OCC[O:3]1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5520,"CC(=O)O[C:1](C)=[O:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4633,"CC(=O)C1=C(C)C2=CN=C(NC3=NC=C(N4CCNCC4)C=C3)N=C2N(C2CCCC2)C1=O.CCCCO[C:1]([N+]1=CC=C(N(C)C)C=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1728,"CC(C)=CCC[C:1](C)=[CH:2]CCC(C)=C[CH2+:3].O.O=P1([O-])[O][Mg][O]P(=O)([O-])O1|((2, 1), 3)"
train,pmechdb_split_0,0,3622,"C[Si:1](C)(C)Cl.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,1688,"C=C(C)CC[OH:1].C[C+:2](C)[CH:3](CO)[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,7687,"CO[C+:1]1C(Br)=C[C:2](S(=O)(=O)O)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,1852,"CC(C)N=C=NC(C)C.CNC(=O)C(C)[NH2:1].COC(=O)NC(C)C(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10325,"C[N:1]1[C:2]2=[C:3](C=CC=C2)[C:4]2=[C:5]1C(CC1=CC(O)=C(O)C=C1)NCC2.[H:6][Cl:7]|(1, 2);((2, 3), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,8932,"C1=CN=CC(C2=CC3CC(C2)C[NH:1]C3)=C1.O=CO.[CH2:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,755,"CC1=[N+:1]([H:2])C(CC2=CC=CC=C2)C(=O)NC2=C1C=CC=C2.CC[NH+](CC)CC.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8270,"C[O:1][H:2].O=C(O)CCCC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6488,"C=[C+:1]C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,147,"CCC1CC(O)=[N:1]C2=CC=CC=C21.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8798,"CCCNCCC.CCC[N:1](CCC)[C:2]1([OH+:3][Ti-]([Cl])([Cl])([Cl])[Cl])CCCCC1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6631,"CSC(O)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH:1]([OH:2])[SH+:3]C.O=C([O-])C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3324,"CC(=O)[O-].CC[NH+](CC)CC.CN(C)C1=CC=[N+:1]([C:2](C)(OC(C)(C)C)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5293,"C=CCC([OH+][Ti:1]([O]C(C)C)([O]C(C)C)[O]C(C)C)C(C)=CC1=CSC(C)=N1.CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[O]C(C)C.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,6623,"O=C([O-])C[NH+]1CC(=O)[O][Ca-:1]1[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1387,"S[CH+:1][OH:2]|(2, 1)"
train,pmechdb_split_0,0,7370,"C[C:1](C)=[OH+:2].SCC[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9533,"CC[NH2+:1][CH:2](C)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2824,"CCOCC1C(O)C[CH:1]([N+:2]2=CC(C3CCCCC3)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2324,"C1=CC=[NH+]C=C1.COC1=CC=C(C2OCC3C(O2)C(C)C(C)[CH:1]([O:2][P+:3](OC)(OC)OC)[O:4]3)C=C1.[Br-]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,4798,"CO[CH:1]=[N+:2](C)C.C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3998,"CC(C)CC(C[C:1]#[C:2]C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,6383,"CCCC=[O+:1][Li:2].CC[BH-](CC)CC.[AlH4-]|((2, 1), 1)"
train,pmechdb_split_0,0,7472,"CC[O+:1](C(C)(O)O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6011,"CC1=C(CCO)S[C:1]([H:2])=[N+]1C.CCO.CC[N:3](CC)CC.N#CC1=CC=C(C=CC(=O)C2=CC=CS2)C=C1.O=CC1=CC=CC=C1.[I-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,28,"C=CC(C)=O.CO[C:1]([C:2]1=[CH:3][CH:4]([H:5])CC(CC(C)C)CC1=O)=[O:6].C[O-:7].[H][H].[Na+]|(7, 5);((5, 4), 3);((3, 2), 1);((1, 6), 6)"
train,pmechdb_split_0,0,9463,"COC1=CC(=CC(C[O:1][H:2])C(CC2=CC(OC)=C(O)C=C2)C(=O)[O][Na])C=CC1=O.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2563,"CCOC[CH:1]=[C:2](N(CC)CC)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
